US06111110
(+)-(4aR)-(10bR)-4-methyl-8-methylthio-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one.
(+)-(4aR)-(10bR)-8-methylthio-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one (0.423 grams, 1.62 mmol, 1.0 equivalents) was treated with potassium t-butoxide (1.86 mL as a 1.0 M solution in tetrahydrofuran, 1.15 equivalents) in dimethylformamide (1.6 mL) at approximately 0° C. After stirring 5 minutes, methyl iodide (0.116 mL, 1.15 equivalents) was added and the mixture allowed to stir for 2 hours at 0° C. The mixture was then treated with approximately 100 mg of acetic acid and solvents were removed in a stream of nitrogen. The solid was dissolved in approximately 50 mL of methylene chloride and washed twice with water. The extracts were dried (4 molecular sieves) and filtered over silica gel (2 grams, washed with ethyl acetate containing 2% methanol). The solid from the evaporation of the methylene chloride extracts was chromatographed on silica gel with methylene chloride, ethyl acetate and methanol (50:50:1) as the eluent. (GC).

reactant | (+)-(4aR)-(10bR)-8-methylthio-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 1.62 mmol, 0.423 grams, 1.0 equivalents | CSC1=CC2=C([C@]3(CCC(N[C@@H]3CC2)=O)C)C=C1 | C15H19NOS
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | methyl iodide | 0.116 mL, 1.15 equivalents | CI | CH3I
reactant | acetic acid | approximately 100 mg | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dimethylformamide | 1.6 mL | CN(C=O)C | C3H7NO
product | (+)-(4aR)-(10bR)-4-methyl-8-methylthio-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)SC)C)=O | C16H21NOS
